US08022223B2
3-(5-Bromo-2-(4-methylthiazol-2-ylamino)pyridin-3-ylthio)benzonitrile
3-(5-Bromo-2-(4-methylthiazol-2-ylamino)pyridin-3-ylthio)benzamide (0.20 g, 0.48 mmol) was suspended in acetonitrile (4 mL). POCl3 (0.11 mL, 1.2 mmol) was added and the reaction stirred in a sealed tube at 70° C. for 4 hours. The solution was cooled and neutralized with saturated NaHCO3 solution. The material was extracted with EtOAc, dried, and concentrated. The crude material was triturated with ether/EtOAc and filtered. The solid was dried to give the title compound (0.065 g, 34%). 1H NMR (DMSO-d6) δ 2.17 (s, 3H), 6.44 (bs, 1H), 7.58-7.68 (m, 3H), 7.83 (d, 1H), 7.92 (s, 1H), 8.36 (s, 1H).

reactant | 3-(5-Bromo-2-(4-methylthiazol-2-ylamino)pyridin-3-ylthio)benzamide | 0.48 mmol, 0.20 g | BrC=1C=C(C(=NC1)NC=1SC=C(N1)C)SC=1C=C(C(=O)N)C=CC1 | C16H13BrN4OS2
reactant | POCl3 | 1.2 mmol, 0.11 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | 3-(5-Bromo-2-(4-methylthiazol-2-ylamino)pyridin-3-ylthio)benzonitrile | 0.065 g, 34% | BrC=1C=C(C(=NC1)NC=1SC=C(N1)C)SC=1C=C(C#N)C=CC1 | C16H11BrN4S2
